US08349849B2
6-Heptyloxyquinoline 1-oxide
6-Heptyloxyquinoline (1000.0 mg, 0.0041094 mol) was dissolved in acetone (20 mL, 0.3 mol), followed by m-chloroperbenzoic acid (1060 mg, 0.00493 mol) in small portions at 23° C. The reaction mixture was then stirred at 23° C. for 3 hours, and LC/MS indicated all the SM was converted to the desired product. A solution of sodium thiosulfate (1950 mg, 0.0123 mol) was added. The reaction mixture was then allowed to stir for 1 hour. Excess of solvents were removed under vacuum, and the residue was treated with DCM (100×3 mL). Combined organic layers were treated with sodium sulfate and filtrated. The crude mixture was then purified via chromatography (SiO2, 120g, 0-8% MeOH/DCM) to give 653 mg (53%) pure product. 1H NMR (CHLOROFORM-d) δ: 8.65 (d, J=9.5 Hz, 1H), 8.38 (d, J=5.8 Hz, 1H), 7.60 (d, J=8.5 Hz, 1H), 7.38 (dd, J=9.5, 2.5 Hz, 1H), 7.23 (dd, J=8.3, 6.0 Hz, 1H), 7.09 (d, J=2.5 Hz, 1H), 4.08 (t, J=6.5 Hz, 2H), 1.80-1.92 (m, 2H), 1.44-1.57 (m, 2H), 1.28-1.44 (m, 6H), 0.90 (t, J=6.8 Hz, 3H). MS (M+1): 260.20.

reactant | 6-Heptyloxyquinoline | 0.0041094 mol, 1000.0 mg | C(CCCCCC)OC=1C=C2C=CC=NC2=CC1 | C16H21NO
reactant | acetone | 0.3 mol, 20 mL | CC(=O)C | C3H6O
reactant | m-chloroperbenzoic acid | 0.00493 mol, 1060 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | 6-Heptyloxyquinoline 1-oxide | C(CCCCCC)OC=1C=C2C=CC=[N+](C2=CC1)[O-] | C16H21NO2
